US04112092
In a manner similar to that described above, but starting from 45.2 g (0.2 mole) of 1-(2-naphthylmethyl)-piperazine and 12 g (0.1 mole) of 2-chlorothiazole in 150 ml of dimethylformamide at 150° C., there were obtained 17 g of 1-(2-naphthylmethyl)-4-(2-thiazolyl)-piperazine as beige crystals melting at 83°-84° C.

reactant | 1-(2-naphthylmethyl)-piperazine | 0.2 mole, 45.2 g | C1=C(C=CC2=CC=CC=C12)CN1CCNCC1 | C15H18N2
reactant | 2-chlorothiazole | 0.1 mole, 12 g | ClC=1SC=CN1 | C3H2ClNS
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-(2-naphthylmethyl)-4-(2-thiazolyl)-piperazine | 17 g | C1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)C=1SC=CN1 | C18H19N3S
